* sg13g2-ldo -- pass-device screening, sg13_hv_pmos continuous-short stress
* bench (issue #13). Generated from
* sim/pass-device-screening/testbench/tb_stress_pmos.spice.tmpl by
* sim/pass-device-screening/run_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep. Full methodology and rationale are in
* sim/pass-device-screening/README.md; this header is a short pointer.
*
* Generated for: device=sg13_hv_pmos w=1u l=0.5u corner=mos_ss
* temp=125C
* PDK: ihp-sg13g2 /Users/rwalters/share/pdk (see sim/pdk.json for the pinned release)
* OSDI models: /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh)
*
* Continuous-short current-limit condition, per spec/porting-plan.md sec
* 2.1/2.3: Vout = 0V (dead short) at Vin_max = 3.63V (Input row's +10%
* corner), gate at 0V (fully on -- the current-limit loop has not yet
* engaged in this bare-device bench, so the pass device is driven as hard
* on as it can be, the worst case for terminal stress). A single .op is
* sufficient: with all three terminal voltages imposed by ideal DC sources,
* |Vds|, |Vsg| and |Vdg| are algebraic consequences of the bias, not swept
* quantities -- only the drain current (the self-heating/dissipation-
* relevant number) is a genuine simulation result. Both are reported here
* for a single source of truth per corner/temp point.

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_ss

.options temp=125 tnom=27

Vin vin 0 dc 3.63
Vout vout 0 dc 0
Vg g 0 dc 0

Xdut vout g vin vin sg13_hv_pmos w=1u l=0.5u ng=1 m=1

.control
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi
op
let id_stress = abs(i(vout))
let vsg_stress = v(vin) - v(g)
let vds_stress = v(vout) - v(vin)
let vdg_stress = v(vout) - v(g)
echo "STRESS_ID $&id_stress"
echo "STRESS_VSG $&vsg_stress"
echo "STRESS_VDS $&vds_stress"
echo "STRESS_VDG $&vdg_stress"
.endc
.end
